US06114391
a) Preparation of N-(3-phenylpropyl)-L-serine methyl ester hydrochloride
L-Serine methyl ester hydrochloride (0.9 moles, 14 g), triethylamine (0.9 moles, 9.1 g) and 3-phenylpropionaldehyde (0.9 moles, 12.1 g) are dissolved in dry methanol (370 ml) in a Parr bottle and hydrogenated under 45 psi in the presence of 10% Pd/C, until the hydrogen absorption ceases.

reactant | L-Serine methyl ester hydrochloride | 0.9 moles, 14 g | Cl.COC([C@@H](N)CO)=O
reactant | triethylamine | 0.9 moles, 9.1 g | C(C)N(CC)CC | C6H15N
reactant | 3-phenylpropionaldehyde | 0.9 moles, 12.1 g | C1(=CC=CC=C1)CCC=O | C9H10O
solvent | methanol | 370 ml | CO | CH4O
solvent | Pd/C | [Pd] | Pd
solvent | hydrogen | [H][H] | H2
product | N-(3-phenylpropyl)-L-serine methyl ester hydrochloride | Cl.COC([C@@H](NCCCC1=CC=CC=C1)CO)=O | InChI=1S/C13H19NO3.ClH/c1-17-13(16)12(10-15)14-9-5-8-11-6-3-2-4-7-11;/h2-4,6-7,12,14-15H,5,8-10H2,1H3;1H/t12-;/m0./s1
